US07220763B2
Preparation of 2-{1-Amino-5-[4-(4-fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1H-indol-3-yl}-N,N-dimethyl-2-oxo-acetamide
To a solution of 2-{5-[4-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1H-indol-3-yl}-N,N-dimethyl-2-oxo-acetamide (620 mg, 1.33 mmol) in 1-methyl-2-pyrrolidinone (20 mL) was added lithium bis(trimethylsilyl)amide (2.1 mL, 2.1 mmol, 1.0 M in THF) at −10° C., followed by o-(diphenylphosphinyl)hydroxylamine (350 mg, 1.5 mmol). The reaction mixture was allowed to warm to RT and continually stirred for 6 h, then quenched with water (50 mL). The resulting mixture was extracted with EtOAc, washed with brine, dried (Na2SO4) and concentrated. The residue was purified by radial chromatography eluting with 2% MeOH in CH2Cl2 to give 300 mg (47%) of the desired product as a white solid. M+H+(481).

reactant | 2-{5-[4-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1H-indol-3-yl}-N,N-dimethyl-2-oxo-acetamide | 1.33 mmol, 620 mg | FC1=CC=C(CC2CCN(CC2)C(=O)C=2C=C3C(=CNC3=CC2OC)C(C(=O)N(C)C)=O)C=C1 | C26H28FN3O4
reactant | lithium bis(trimethylsilyl)amide | 2.1 mmol, 1.0 M, 2.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | 1-methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 2-{1-Amino-5-[4-(4-fluoro-benzyl)-piperidine-1-carbonyl]-6-methoxy-1H-indol-3-yl}-N,N-dimethyl-2-oxo-acetamide | 300 mg, 47% | NN1C=C(C2=CC(=C(C=C12)OC)C(=O)N1CCC(CC1)CC1=CC=C(C=C1)F)C(C(=O)N(C)C)=O | C26H29FN4O4
